US08039474B2
A mixture of ethyl (N-phenyl-hydrazino)-acetate hydrochloric acid salt (2.3 g, 10 mmol) and 4-oxo-cyclohexanecarboxylic acid (1.42 g, 10 mmol) in glacial AcOH (20 ml) is stirred at 70° C. for 1 h. The suspension is allowed to cool to rt, poured onto H2O and stirred for 1 h. The resulting precipitate is filtered, washed with H2O and dried under high vacuum to give pure 9-ethoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid as a white solid (2.85 g) in 93% yield.

reactant | ethyl (N-phenyl-hydrazino)-acetate hydrochloric acid salt | 10 mmol, 2.3 g | Cl.C1(=CC=CC=C1)N(N)CC(=O)OCC
reactant | 4-oxo-cyclohexanecarboxylic acid | 10 mmol, 1.42 g | O=C1CCC(CC1)C(=O)O | C7H10O3
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | 9-ethoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 2.85 g, 93% yield | C(C)OC(=O)CN1C2=CC=CC=C2C=2CC(CCC12)C(=O)O | C17H19NO4
